US03966736
In the manner given in Example 13, 8,9-dichloro-6,11-dihydro-11-[(dipropylamino)acetyl]-5H-pyrido[2,3-b][1,5]-benzodiazepin-5-thione is heated to about 200° C. with ethyl carbazate to give 6,7-dichloro-2,9-dihydro-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo-[4,3-a][1,5]benzodiazepin-3-one.

reactant | 8,9-dichloro-6,11-dihydro-11-[(dipropylamino)acetyl]-5H-pyrido[2,3-b][1,5]-benzodiazepin-5-thione | ClC=1C(=CC2=C(NC(C3=C(N2C(CN(CCC)CCC)=O)N=CC=C3)=S)C1)Cl | C20H22Cl2N4OS
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 6,7-dichloro-2,9-dihydro-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo-[4,3-a][1,5]benzodiazepin-3-one | ClC1=CC2=C(N(C3=C(C=4N2C(NN4)=O)C=CC=N3)C(CN(CCC)CCC)=O)C=C1Cl | C21H22Cl2N6O2
